US06495546B1
A solution of N-benzyl-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)amine (194 mg) and di-tert-butyl dicarbonate (174 mg) in tetrahydrofuran (2 ml) was stirred at room temperature for 20 hours and partitioned between ethyl acetate and an aqueous solution of sodium bicarbonate. The organic layer was separated, washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed (toluene-ethyl acetate) over silica gel (5.8 g) to afford N-benzyl-N-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine as a pale yellow solid (196 mg).

reactant | N-benzyl-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)amine | 194 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=C(C=C2)O | C18H21NO
reactant | di-tert-butyl dicarbonate | 174 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-benzyl-N-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine | 196 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=C(C=C2)O)C(=O)OC(C)(C)C | C23H29NO3
